US04692446
2-(2-Methylpropionamido)ethylamine
The procedure of Example IX was repeated in all essential details to produce the above compound, except that equivalent amounts of ethylenediamine and ethyl 2,2-dimethylacetate were substituted for 1,2-diamino-2-methylpropane and ethyl acetate, respectively. The product, which was identified by NMR and IR spectroscopy, was recovered as an oil.

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | ethyl 2,2-dimethylacetate | CC(C(=O)OCC)C | C6H12O2
reactant | 1,2-diamino-2-methylpropane | NCC(C)(C)N | C4H12N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-Methylpropionamido)ethylamine | CC(C(=O)NCCN)C | C6H14N2O
